US07342115B2
Sodium bis(trimethylsilyl)amide (2.9 mL of 1M solution in THF) is added slowly to a solution of trimethyl phosphonoacetate (0.47 mL, 2.9 mmol) in THF (8 mL). The mixture is stirred for 30 minutes at room temperature and then cooled to −78° C. To this is added a solution of 6-(2,6-diethyl-phenyl)-4-ethyl-2-methyl-pyridine-carbaldehyde (813 mg, 2.9 mmol) in THF (5 mL) which is generated from the pyridylmethanol via Swern oxidation. The resulting mixture is stirred for 1.5 hours at ambient temperature, poured into saturated NH4Cl solution, and the layers are separated. The aqueous layer is extracted with EtOAc and the combined organic layers are dried over sodium sulfate and concentrated in vacuo. The residue is purified by flash chromatography (elution with Hex/EtOAc 8:1) to yield 3-[6-(2,6-diethyl-phenyl)-4-ethyl-2-methylpyridin-3-yl]-acrylic acid methyl ester as a pale yellow oil. 1H NMR (CDCl3) 7.91 (d, 1H), 7.29 (m, 2H), 7.18 (d, 2H), 7.01 (s, 1H), 6.10 (d, 1H), 3.83 (s, 3H), 2.72 (q, 2H), 2.60 (s, 3H), 2.34 (m, 4H), 1.21 (t, 3H), 1.04 (m, 6H).

reactant | Sodium bis(trimethylsilyl)amide | 1M, 2.9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | trimethyl phosphonoacetate | 2.9 mmol, 0.47 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | 6-(2,6-diethyl-phenyl)-4-ethyl-2-methyl-pyridine-carbaldehyde | 2.9 mmol, 813 mg | C(C)C1=C(C(=CC=C1)CC)C1=CC(=CC(N1)(C=O)C)CC | C19H25NO
reactant | pyridylmethanol | C1=CC(=CN=C1)CO | C6H7NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[6-(2,6-diethyl-phenyl)-4-ethyl-2-methylpyridin-3-yl]-acrylic acid methyl ester | COC(C=CC=1C(=NC(=CC1CC)C1=C(C=CC=C1CC)CC)C)=O | C22H27NO2
